US06071927
2-Bromo-6-(2-hydroxyethyl)-4-trifluoromethoxyphenol
Through a cooled (-78° C.) solution of 2-bromo-6-(prop-2-enyl)-4-trifluormethoxyphenol (Description 15.; 5.9 g, 0.02 mol) in dichloromethane (30 ml) and methanol (30 ml) was bubbled a mixture of ozone in oxygen for 4 h. After the solution had been purged with nitrogen for 1 h., sodium borohydride (0.755 g) was added and then stirred at room temperature for 15 h. The solvent was removed in vacuo and the residue partitioned between ethyl acetate and water containing (2M HCl (20 ml). The organic phase was washed with saturated brine, dried (MgSO4) and the solvent evaporated in vacuo. The residue was chromatographed on silica gel (eluting with 20% ethyl acetate in hexane) to give the title compound. 1H NMR (250 MHz, CDCl3) δ2.93 (2H, t, J 5.6 Hz), 3.98 (2H, t, J 5.4 Hz), 6.96 (1H, d, J 2.5 Hz), and 7.3 (1H, d, J 2.4 Hz).

reactant | 2-bromo-6-(prop-2-enyl)-4-trifluormethoxyphenol | 0.02 mol, 5.9 g | BrC1=C(C(=CC(=C1)OC(F)(F)F)CC=C)O | C10H8BrF3O2
reactant | methanol | 30 ml | CO | CH4O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-Bromo-6-(2-hydroxyethyl)-4-trifluoromethoxyphenol | BrC1=C(C(=CC(=C1)OC(F)(F)F)CCO)O | C9H8BrF3O3
